US07504401B2
[3-(Pyridine-3-carbonyl)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-carbamic acid benzyl ester (40 mg, 0.066 mmol) in 40% KOH in MeOH/H2O (5 mL/5 mL) was brought to reflux for 2 hours. After cooling down to room temperature, the mixture was diluted with water, and extracted with EtOAc. The organic layers were separated, dried and concentrated. Purification on silica gel afforded [3-amino-5-(1H-indol-4-yl)-phenyl]-pyridin-3-yl-methanone as a yellow solid (11.9 mg, 57%). 1H NMR (400 MHz, CDCl3): δ 9.01 (d, J=1.6 Hz, 1H), 8.71 (dd, J=4.8, 1.7 Hz, 1H), 8.29 (s, 1H), 8.09 (dt, J=4.9, 2.6 Hz, 1H), 7.38-7.31 (m, 3H), 7.20-7.15 (m, 4H), 7.11-7.07 (m, 2H) 6.64-6.60 (m, 1H).

reactant | [3-(Pyridine-3-carbonyl)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-carbamic acid benzyl ester | 0.066 mmol, 40 mg | C(C1=CC=CC=C1)OC(NC1=CC(=CC(=C1)C1=C2C=CN(C2=CC=C1)[Si](C(C)C)(C(C)C)C(C)C)C(=O)C=1C=NC=CC1)=O | C37H41N3O3Si
solvent | KOH | [OH-].[K+]
solvent | MeOH H2O | 5 mL | CO.O
solvent | water | O | H2O
product | [3-amino-5-(1H-indol-4-yl)-phenyl]-pyridin-3-yl-methanone | 11.9 mg, 57% | NC=1C=C(C=C(C1)C1=C2C=CNC2=CC=C1)C(=O)C=1C=NC=CC1 | C20H15N3O
